US04148784
155 g (1 mol) of triacetonamine, 113 g of ethyl cyanoacetate, 300 ml of benzene and 31 g of ammonium acetate are kept under reflux for 1.5 hours under a water separator. The benzene phase is treated with 50% of potassium carbonate, the organic phase is dried over sodium sulphate and the benzene is then stripped off in vacuo. Ethyl 2,2,6,6-tetramethyl-4-piperidinylidene-cyanoacetate is obtained as an oily residue.

reactant | triacetonamine | 1 mol, 155 g | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
reactant | ethyl cyanoacetate | 113 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 31 g | C(C)(=O)[O-].[NH4+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | Ethyl 2,2,6,6-tetramethyl-4-piperidinylidene-cyanoacetate | CC1(NC(CC(C1)=C(C(=O)OCC)C#N)(C)C)C | C14H22N2O2
